US03931143
B. 12-t-Butylazo-12-cyanostearic Acid
To a solution of 21.0 grams (0.0568 moles) of the t-butylhydrazone of 12-ketostearic acid in 50 ml of pentane, cooled to -20°C, was passed 2.02 grams (0.0285 moles) of chlorine over a 10 minute period. The reaction was stirred an additional 15 minutes at -20°C, the white solid that formed, filtered off, and the pentane filtrate, which should contain approximately 0.0285 moles of 12-t-butylazo-12-chlorostearic acid added to a solution of 1.5 grams (0.03 moles) of sodium cyanide in 20 mls of 75% aqueous methanol. The reaction was stirred for 1 hour at 20°C, poured into 100 ml of water, the pentane layer separated, washed with 5% HCl and then with water until neutral. The pentane solution was dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure to leave 8.5 grams (76% yield) of the desired acid.

reactant | 12-ketostearic acid | O=C(CCCCCCCCCCC(=O)O)CCCCCC | C18H34O3
reactant | chlorine | 0.0285 moles, 2.02 grams | ClCl | Cl2
reactant | 12-t-butylazo-12-chlorostearic acid | approximately 0.0285 moles | C(C)(C)(C)N=NC(CCCCCCCCCCC(=O)O)(CCCCCC)Cl | C22H43ClN2O2
reactant | sodium cyanide | 0.03 moles, 1.5 grams | [C-]#N.[Na+]
solvent | pentane | 50 ml | CCCCC | C5H12
solvent | methanol | 20 mls | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 12-t-Butylazo-12-cyanostearic Acid | 8.5 grams, 76% yield | C(C)(C)(C)N=NC(CCCCCCCCCCC(=O)O)(CCCCCC)C#N | C23H43N3O2
